US07342131B2
1-(3-dimethylaminopropyl)3-ethylcarbodiimide hydrochloride (EDAC) (1.3 g, 6.57 mmol) was slowly added to a solution of 2-(phenylmethoxy)benzoic acid (1.5 g, 6.57 mmol), 1-hydroxybenzotriazole (HOBt) (0.89 g, 6.57 mmol), and ethanolamine (0.40 mL, 6.57 mmol) in 50 mL of anhydrous THF at 0° C. The suspension was stirred and warmed up slowly to room temperature over 24 hrs. The reaction mixture was concentrated to dryness under reduced pressure and the resulting residue was diluted with dichloromethane and washed with 0.5N HCl twice followed by the addition of a saturated NaHCO3 solution and brine. The organic layer was separated, dried through a MgSO4 pad and concentrated under reduced pressure to afford 1.8 g (100%) of N-(2-Hydroxyethyl)[2-(phenylmethoxy)phenyl]carboxamide.

reactant | 1-(3-dimethylaminopropyl)3-ethylcarbodiimide hydrochloride | 6.57 mmol, 1.3 g | Cl.CN(CCCN=C=NCC)C
reactant | 2-(phenylmethoxy)benzoic acid | 6.57 mmol, 1.5 g | C1(=CC=CC=C1)COC1=C(C(=O)O)C=CC=C1 | C14H12O3
reactant | 1-hydroxybenzotriazole | 6.57 mmol, 0.89 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | ethanolamine | 6.57 mmol, 0.40 mL | C(O)CN | C2H7NO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-(2-Hydroxyethyl)[2-(phenylmethoxy)phenyl]carboxamide | 1.8 g, 100% | OCCNC(=O)C1=C(C=CC=C1)OCC1=CC=CC=C1 | C16H17NO3
